US05976408
A solution of tribromofluoromethane and triphenyl phosphine in ethylene glycol dimethyl ether was stirred at 70° C. for 1 hour. The reaction solution was cooled with ice, and a solution of trans-4-(trans-4-ethylcyclohexyl)cyclohexane carboaldehyde in tetrahydrofuran was added thereto. After the reaction solution was further stirred for 1 hour, the temperature of the solution was gradually raised up to room temperature, and insoluble substances were removed by filtration. Dilute hydrochloric acid was added to the filtrate, and it was extracted with toluene. After the organic layer was washed with water, it was dried by using anhydrous magnesium sulfate, and concentrated under a reduced pressure to obtain a brown oily product. After this product was purified by using a silica gel column chromatography, it was recrystallized from heptane to obtain trans-4-(trans-4-ethylcyclohexyl)cyclohexyl-2-fluoro-2-bromoethene.

reactant | tribromofluoromethane | BrC(F)(Br)Br | CBr3F
reactant | triphenyl phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | trans-4-(trans-4-ethylcyclohexyl)cyclohexane carboaldehyde | C(C)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C=O | C15H26O
solvent | ethylene glycol dimethyl ether | COCCOC | C4H10O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | trans-4-(trans-4-ethylcyclohexyl)cyclohexyl-2-fluoro-2-bromoethene | C(C)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C=C(Br)F | C16H26BrF
